* ============================================================
* CANDIDATE behavioral LDO model  (subckt: ldo_model, ports: vin vout)
* Fitted to ground-truth by harness/fit_model.py. All linear/passive +
* controlled sources -> PSS/HB-robust (NO laplace_nd). OP-parameterized by iload
* via quadratic-in-ln(iload) interpolation through corners {20u,121u,250u}.
*   Zout = (R_a + sL_a||R_pl) || (R_b+sL_b) || (ESR+1/sCout)  Cout/ESR auto-extracted;
*          R_pl damps the L rise (inf=peak / finite=plateau); branch B (R_b->inf=off)
*          adds a 2nd resonance/roll-off for multi-pole LDOs (engaged only if it helps)
*   PSRR = i_c*Zout, i_c = G0 + sum Gi/(1+s/wi) [real bank] + one signed COMPLEX 2nd-
*          order section (b0+b1 s)/(1+s/(Q w0)+(s/w0)^2): shelf (1 real)=min-phase, 3 real
*          =non-min-phase mag, + complex section = non-min-phase / notch PHASE (V4/V3).
*          LP filter Rs are noiseless VCCS-conductances (no thermal noise from signal path)
*   Noise= DECOUPLED Norton @vout: white + 6 Lorentzian current sections fit to
*          In=Sv/|Zout| -> output PSD = In*|Zout| exactly, independent of Zout synthesis
* ============================================================
.subckt ldo_model vin vout iload=121u slew_en=0
.param ic = {min(max(iload,20u),250u)}
.param u  = {ln(ic)}
.param VREG121 = 9.181374e-01    $ nominal-corner Vreg (DC-curve table reference)
.param R_a = {min(max(exp((1.573993e-01)*u*u + (2.376928e+00)*u + (8.974696e+00)),1.086598e+00),5.409828e+00)}
.param L_a = {min(max(exp((1.942048e-01)*u*u + (3.152506e+00)*u + (3.681401e+00)),1.104409e-04),4.583263e-04)}
.param R_pl = {min(max(exp((-7.719533e-09)*u*u + (-1.334377e-07)*u + (2.072327e+01)),9.950248e+08),1.005000e+09)}
.param R_b = {min(max(exp((5.253907e-02)*u*u + (3.474518e-01)*u + (2.165294e+00)),1.804291e+01),9.573207e+01)}
.param L_b = {min(max(exp((1.284737e-01)*u*u + (1.917033e+00)*u + (-7.974229e+00)),2.935209e-07),1.155465e-06)}
.param G0 = {min(max((2.271201e-04)*u*u + (5.252825e-03)*u + (3.069902e-02),4.415054e-04),2.767217e-03)}
.param G1 = {min(max((4.105152e-01)*u*u + (7.118694e+00)*u + (3.083833e+01),1.808430e-02),1.882908e+00)}
.param w1 = {min(max(exp((1.795068e+00)*u*u + (3.094118e+01)*u + (1.423370e+02)),9.791724e+03),4.910910e+07)}
.param G2 = {min(max((-2.060511e-01)*u*u + (-3.567584e+00)*u + (-1.541525e+01),-9.413741e-01),4.683453e-03)}
.param w2 = {min(max(exp((5.356262e-01)*u*u + (9.273708e+00)*u + (5.533931e+01)),4.257213e+06),4.909672e+07)}
.param G3 = {min(max((-2.060163e-01)*u*u + (-3.566981e+00)*u + (-1.541264e+01),-9.412149e-01),4.682661e-03)}
.param w3 = {min(max(exp((5.356152e-01)*u*u + (9.273518e+00)*u + (5.533849e+01)),4.257213e+06),4.909427e+07)}
.param pcb0 = {min(max((2.165049e-03)*u*u + (4.053333e-02)*u + (1.917880e-01),2.305197e-03),6.705174e-03)}
.param pcb1 = {min(max((1.318174e-07)*u*u + (2.282667e-06)*u + (9.864993e-06),-2.968883e-09),6.015792e-07)}
.param pcw0 = {min(max(exp((-2.656597e+00)*u*u + (-4.774219e+01)*u + (-1.961894e+02)),1.166254e+04),8.938386e+07)}
.param pcq = {min(max(exp((-5.527329e-01)*u*u + (-1.058309e+01)*u + (-5.042635e+01)),5.077197e-01),1.069724e+00)}
.param gnw = {min(max(exp((-1.500359e-01)*u*u + (-2.644492e+00)*u + (-2.903308e+01)),1.538942e-08),2.826245e-08)}
.param gn1 = {min(max(exp((-1.466647e-01)*u*u + (-2.171714e+00)*u + (-4.638490e+00)),5.388723e+00),2.683096e+01)}
.param gn2 = {min(max(exp((-1.731085e-01)*u*u + (-2.658165e+00)*u + (-8.261049e+00)),1.257744e+00),6.570155e+00)}
.param gn3 = {min(max(exp((-4.417837e+00)*u*u + (-8.735671e+01)*u + (-4.289241e+02)),2.493119e-04),6.698150e-01)}
.param gn4 = {min(max(exp((1.266238e-01)*u*u + (2.982459e+00)*u + (4.026213e+00)),1.478066e-06),6.175923e-06)}
.param gn5 = {min(max(exp((4.378692e+00)*u*u + (8.957735e+01)*u + (4.381266e+02)),9.400650e-09),2.700703e-02)}
.param gn6 = {min(max(exp((-1.791872e-01)*u*u + (-2.870942e+00)*u + (-1.466639e+01)),1.019919e-02),4.174447e-02)}
.param vreg = {min(max((8.281418e-06)*u*u + (7.819054e-05)*u + (9.181689e-01),9.180891e-01),9.182934e-01)}
.param COUT=9.972484e-10 ESR=4.978056e-01    $ auto-extracted physical output cap / ESR
.param Cps=1p Rp1={1/(w1*Cps)} Rp2={1/(w2*Cps)} Rp3={1/(w3*Cps)}
* complex PSRR section: a1=1/(Q.w0), a2=1/w0^2 ; series R-L-C w/ Cpc fixed -> Rpc,Lpc
.param Cpc=1p pca1={1/(pcq*pcw0)} pca2={1/(pcw0*pcw0)}
.param Rpc={pca1/Cpc} Lpc={pca2/Cpc} gqb1={pcb1/pca1}
*
* ---- DC operating point: regulated Vreg (constant). vin->vout coupling is
*      handled ENTIRELY by the PSRR path below (small-signal-consistent: its DC
*      limit g_lf*R_a = the measured PSRR LF). A broadband line-reg term here
*      would create a parasitic flat PSRR floor, so it is intentionally omitted.
Breg vreg 0 V = {vreg}
*
* ---- Zout: branch A (R_a + L_a) || branch C (ESR+Cout) || branch B (opt) ----
La   vout nA  {L_a}
Rpl  vout nA  {R_pl}            $ damping across L_a (R_pl->inf = peak; finite = plateau)
* branch-A conductance: linear R_a (slew_en=0, PSS/HB) OR nonlinear DC-curve w/
* current-limit+dropout (slew_en=1). La in series stays -> resonance + di/dt slew.
Bra  vreg nA I = {(slew_en > 0.5) ? pwl(V(vreg,nA)-(vreg-VREG121),-3.086343e-04,1.000000e-06,-8.882032e-05,1.300000e-05,-2.478732e-05,2.500000e-05,1.658168e-05,3.700000e-05,4.819768e-05,4.900000e-05,7.438768e-05,6.100000e-05,9.714068e-05,7.300000e-05,1.175377e-04,8.500000e-05,1.362367e-04,9.700000e-05,1.536677e-04,1.090000e-04,1.701267e-04,1.210000e-04,1.858287e-04,1.330000e-04,2.009327e-04,1.450000e-04,2.155587e-04,1.570000e-04,2.298017e-04,1.690000e-04,2.437367e-04,1.810000e-04,2.574227e-04,1.930000e-04,2.709097e-04,2.050000e-04,2.842367e-04,2.170000e-04,2.974377e-04,2.290000e-04,3.105397e-04,2.410000e-04,3.235667e-04,2.530000e-04,3.365377e-04,2.650000e-04,3.494707e-04,2.770000e-04,3.623787e-04,2.890000e-04,3.752757e-04,3.010000e-04,3.881717e-04,3.130000e-04,4.010757e-04,3.250000e-04,4.139967e-04,3.370000e-04,4.269417e-04,3.490000e-04,4.399167e-04,3.610000e-04,4.529267e-04,3.730000e-04,4.659777e-04,3.850000e-04,4.790727e-04,3.970000e-04,4.922167e-04,4.090000e-04,5.054127e-04,4.210000e-04,5.186637e-04,4.330000e-04,5.319727e-04,4.450000e-04,5.453417e-04,4.570000e-04,5.587737e-04,4.690000e-04,5.722707e-04,4.810000e-04,5.858347e-04,4.930000e-04,6.176587e-04,5.210000e-04,6.407017e-04,5.410000e-04,6.639617e-04,5.610000e-04,6.874457e-04,5.810000e-04,7.111677e-04,6.010000e-04,7.351377e-04,6.210000e-04,7.593707e-04,6.410000e-04,7.838807e-04,6.610000e-04,8.086877e-04,6.810000e-04,8.338107e-04,7.010000e-04,8.592737e-04,7.210000e-04,8.851067e-04,7.410000e-04,9.113417e-04,7.610000e-04,9.380207e-04,7.810000e-04,9.651927e-04,8.010000e-04,9.929197e-04,8.210000e-04,1.021276e-03,8.410000e-04,1.050352e-03,8.610000e-04,1.080270e-03,8.810000e-04,1.111193e-03,9.010000e-04,1.143341e-03,9.210000e-04,1.177029e-03,9.410000e-04,1.212721e-03,9.610000e-04,1.251135e-03,9.810000e-04,1.293455e-03,1.001000e-03,1.341762e-03,1.021000e-03,1.400001e-03,1.041000e-03,1.476245e-03,1.061000e-03,1.614780e-03,1.081000e-03,1.828405e-03,1.101000e-03,2.205719e-03,1.121000e-03,2.834628e-03,1.141000e-03,3.783823e-03,1.161000e-03,5.124377e-03,1.181000e-03,6.870275e-03,1.201000e-03,8.952825e-03,1.221000e-03,1.125299e-02,1.241000e-03,1.367399e-02,1.261000e-03,1.616555e-02,1.281000e-03,1.870202e-02,1.301000e-03,2.127091e-02,1.321000e-03,2.386606e-02,1.341000e-03,2.648502e-02,1.361000e-03,2.912751e-02,1.381000e-03,3.179204e-02,1.401000e-03,3.447428e-02,1.421000e-03,3.717148e-02,1.441000e-03,3.987588e-02,1.461000e-03,4.260142e-02,1.481000e-03,4.534074e-02,1.501000e-03,4.809408e-02,1.521000e-03,5.086155e-02,1.541000e-03,5.364331e-02,1.561000e-03,5.643954e-02,1.581000e-03,5.925043e-02,1.601000e-03,6.207617e-02,1.621000e-03,6.491698e-02,1.641000e-03,6.777308e-02,1.661000e-03,7.064469e-02,1.681000e-03,7.353205e-02,1.701000e-03,7.643540e-02,1.721000e-03,7.935498e-02,1.741000e-03,8.229106e-02,1.761000e-03,8.524389e-02,1.781000e-03,8.821375e-02,1.801000e-03,9.120091e-02,1.821000e-03,9.420566e-02,1.841000e-03,9.722831e-02,1.861000e-03,1.002691e-01,1.881000e-03,1.033285e-01,1.901000e-03,1.064066e-01,1.921000e-03,1.095039e-01,1.941000e-03,1.126207e-01,1.961000e-03,1.157574e-01,1.981000e-03,1.189143e-01,2.001000e-03,1.220917e-01,2.021000e-03,1.252901e-01,2.041000e-03,1.285099e-01,2.061000e-03,1.317514e-01,2.081000e-03,1.350152e-01,2.101000e-03,1.383015e-01,2.121000e-03,1.416110e-01,2.141000e-03,1.449440e-01,2.161000e-03,1.483010e-01,2.181000e-03,1.516826e-01,2.201000e-03,1.550892e-01,2.221000e-03,1.585213e-01,2.241000e-03,1.619796e-01,2.261000e-03,1.654646e-01,2.281000e-03,1.689769e-01,2.301000e-03,1.725172e-01,2.321000e-03,1.760859e-01,2.341000e-03,1.796839e-01,2.361000e-03,1.833118e-01,2.381000e-03,1.869703e-01,2.401000e-03,1.906602e-01,2.421000e-03,1.943822e-01,2.441000e-03,1.981371e-01,2.461000e-03,2.019259e-01,2.481000e-03,2.057493e-01,2.501000e-03,2.096083e-01,2.521000e-03,2.135039e-01,2.541000e-03,2.174369e-01,2.561000e-03,2.214086e-01,2.581000e-03,2.254200e-01,2.601000e-03,2.294722e-01,2.621000e-03,2.335664e-01,2.641000e-03,2.377039e-01,2.661000e-03,2.418860e-01,2.681000e-03,2.461140e-01,2.701000e-03,2.503896e-01,2.721000e-03,2.547141e-01,2.741000e-03,2.590893e-01,2.761000e-03,2.635168e-01,2.781000e-03,2.679984e-01,2.801000e-03,2.725360e-01,2.821000e-03,2.771317e-01,2.841000e-03,2.817876e-01,2.861000e-03,2.865060e-01,2.881000e-03,2.912893e-01,2.901000e-03,2.961400e-01,2.921000e-03,3.010609e-01,2.941000e-03,3.060549e-01,2.961000e-03,3.111250e-01,2.981000e-03,3.162747e-01,3.001000e-03,3.215075e-01,3.021000e-03,3.268272e-01,3.041000e-03,3.322380e-01,3.061000e-03,3.377441e-01,3.081000e-03,3.433505e-01,3.101000e-03,3.490622e-01,3.121000e-03,3.548847e-01,3.141000e-03,3.608242e-01,3.161000e-03,3.668872e-01,3.181000e-03,3.730807e-01,3.201000e-03,3.794126e-01,3.221000e-03,3.858911e-01,3.241000e-03,3.925256e-01,3.261000e-03,3.993261e-01,3.281000e-03,4.063035e-01,3.301000e-03,4.134701e-01,3.321000e-03,4.208390e-01,3.341000e-03,4.284246e-01,3.361000e-03,4.362428e-01,3.381000e-03,4.443109e-01,3.401000e-03,4.526476e-01,3.421000e-03,4.612733e-01,3.441000e-03,4.702100e-01,3.461000e-03,4.794810e-01,3.481000e-03,4.891110e-01,3.501000e-03,4.991255e-01,3.521000e-03,5.095505e-01,3.541000e-03,5.204119e-01,3.561000e-03,5.317345e-01,3.581000e-03,5.435411e-01,3.601000e-03,5.558518e-01,3.621000e-03,5.686830e-01,3.641000e-03,5.820471e-01,3.661000e-03,5.959519e-01,3.681000e-03,6.104013e-01,3.701000e-03,6.253952e-01,3.721000e-03,6.412099e-01,3.741000e-03,6.572780e-01,3.761000e-03,6.738741e-01,3.781000e-03,6.909900e-01,3.801000e-03,7.086168e-01,3.821000e-03,7.267447e-01,3.841000e-03,7.453633e-01,3.861000e-03,7.644620e-01,3.881000e-03,7.840298e-01,3.901000e-03,8.040551e-01,3.921000e-03,8.245262e-01,3.941000e-03,8.454309e-01,3.961000e-03,8.667568e-01,3.981000e-03,8.884912e-01,4.001000e-03,9.106209e-01,4.021000e-03,9.331327e-01,4.041000e-03,9.560132e-01,4.061000e-03,9.792490e-01,4.081000e-03,1.002826e+00,4.101000e-03,1.026732e+00,4.121000e-03,1.050952e+00,4.141000e-03,1.075325e+00,4.161000e-03,1.100139e+00,4.181000e-03,1.125229e+00,4.201000e-03,1.150581e+00,4.221000e-03,1.176182e+00,4.241000e-03,1.202020e+00,4.261000e-03,1.228083e+00,4.281000e-03,1.254359e+00,4.301000e-03,1.280837e+00,4.321000e-03,1.307506e+00,4.341000e-03,1.334356e+00,4.361000e-03,1.361376e+00,4.381000e-03,1.388556e+00,4.401000e-03,1.415888e+00,4.421000e-03,1.443362e+00,4.441000e-03,1.470969e+00,4.461000e-03,1.498702e+00,4.481000e-03,1.526552e+00,4.501000e-03,1.554512e+00,4.521000e-03,1.582575e+00,4.541000e-03,1.610733e+00,4.561000e-03,1.638981e+00,4.581000e-03,1.667312e+00,4.601000e-03,1.695720e+00,4.621000e-03,1.724199e+00,4.641000e-03,1.752745e+00,4.661000e-03,1.781351e+00,4.681000e-03,1.810014e+00,4.701000e-03,1.838728e+00,4.721000e-03,1.867489e+00,4.741000e-03,1.896293e+00,4.761000e-03,1.925136e+00,4.781000e-03,1.954014e+00,4.801000e-03,1.982923e+00,4.821000e-03,2.011861e+00,4.841000e-03,2.040824e+00,4.861000e-03,2.069808e+00,4.881000e-03,2.098812e+00,4.901000e-03,2.127832e+00,4.921000e-03,2.156865e+00,4.941000e-03,2.185909e+00,4.961000e-03,2.214962e+00,4.981000e-03,2.244021e+00,5.001000e-03,2.273085e+00,5.021000e-03,2.302151e+00,5.041000e-03,2.331218e+00,5.061000e-03,2.360282e+00,5.081000e-03,2.389344e+00,5.101000e-03,2.418401e+00,5.121000e-03,2.447451e+00,5.141000e-03,2.476494e+00,5.161000e-03,2.505527e+00,5.181000e-03,2.534549e+00,5.201000e-03,2.563560e+00,5.221000e-03,2.592557e+00,5.241000e-03,2.621540e+00,5.261000e-03,2.650508e+00,5.281000e-03,2.679459e+00,5.301000e-03,2.708393e+00,5.321000e-03,2.737308e+00,5.341000e-03,2.766205e+00,5.361000e-03,2.795081e+00,5.381000e-03,2.823936e+00,5.401000e-03,2.852770e+00,5.421000e-03,2.881581e+00,5.441000e-03,2.910369e+00,5.461000e-03,2.939133e+00,5.481000e-03,2.967874e+00,5.501000e-03,2.996589e+00,5.521000e-03,3.025279e+00,5.541000e-03,3.053943e+00,5.561000e-03,3.082580e+00,5.581000e-03,3.111191e+00,5.601000e-03,3.139774e+00,5.621000e-03,3.168329e+00,5.641000e-03,3.196856e+00,5.661000e-03,3.225355e+00,5.681000e-03,3.253825e+00,5.701000e-03,3.282265e+00,5.721000e-03,3.310676e+00,5.741000e-03,3.339057e+00,5.761000e-03,3.367408e+00,5.781000e-03,3.395728e+00,5.801000e-03,3.424018e+00,5.821000e-03,3.452277e+00,5.841000e-03,3.480505e+00,5.861000e-03,3.508701e+00,5.881000e-03,3.536866e+00,5.901000e-03,3.564999e+00,5.921000e-03,3.593100e+00,5.941000e-03,3.621170e+00,5.961000e-03,3.649207e+00,5.981000e-03) : V(vreg,nA)/R_a}
Cout vout nC  {COUT}
Resr nC  vreg {ESR}
* ---- optional branch B: 2nd parallel R-L for multi-pole Zout (R_b->inf = off) ----
Lb   vout nbb {L_b}
Rbb  nbb  vreg {R_b}
*
* ---- intrinsic output noise: DECOUPLED Norton current @vout (white + 6 Lorentzians).
* Each section = fixed R||C thermal noise (sets corner) x VCCS gm (sets amplitude),
* injected at vout so output PSD = In(f)*|Zout(f)|. Decoupled from the Zout branches
* above -> immune to branch-B re-shaping; fit to In=Sv/|Zout| across load corners.
Rnw  nw 0 1.000000e+06
Gnw  0 vout nw 0 {gnw}      $ white floor
Rn1  nk1 0 1.000000e+06
Cn1  nk1 0 8.138768e-09        $ corner 19.56 Hz
Gn1  0 vout nk1 0 {gn1}
Rn2  nk2 0 1.000000e+06
Cn2  nk2 0 4.882162e-10        $ corner 326 Hz
Gn2  0 vout nk2 0 {gn2}
Rn3  nk3 0 1.000000e+06
Cn3  nk3 0 2.441440e-10        $ corner 651.9 Hz
Gn3  0 vout nk3 0 {gn3}
Rn4  nk4 0 1.000000e+06
Cn4  nk4 0 2.592748e-11        $ corner 6138 Hz
Gn4  0 vout nk4 0 {gn4}
Rn5  nk5 0 1.000000e+06
Cn5  nk5 0 3.737612e-14        $ corner 4.258e+06 Hz
Gn5  0 vout nk5 0 {gn5}
Rn6  nk6 0 1.000000e+06
Cn6  nk6 0 1.869881e-14        $ corner 8.512e+06 Hz
Gn6  0 vout nk6 0 {gn6}
*
* ---- PSRR path: i_c = G0 + sum_i Gi*LP_i(vin-1.05), injected into vout (x Zout).
*      Bank of signed first-order real-pole sections (+ one complex section below).
*      The LP filter resistors are realized as NOISELESS VCCS-conductances (Grp*),
*      NOT physical R: the PSRR coupling is a signal-transfer path, so its filter
*      elements must contribute NO thermal noise (else they corrupt the decoupled
*      Norton noise block). This matches the Verilog-A mirror (which is already
*      noiseless) and is I-V identical to a resistor in .op/.dc/.ac/.tran. ----
Vrf  vrf 0 DC 1.05               $ nominal-vin reference (model fit at vin=1.05)
Gd   0   vout vin vrf {G0}         $ feedthrough  G0*(vin-1.05)
Grp1 vin np1 vin np1 {1/Rp1}   $ noiseless conductance (= 1/Rp1)
Cp1  np1 vrf {Cps}             $ np1 = LP1(vin), DC-referenced to 1.05
Gs1  0   vout np1 vrf {G1}         $ G1*(LP1(vin)-1.05)
Grp2 vin np2 vin np2 {1/Rp2}
Cp2  np2 vrf {Cps}
Gs2  0   vout np2 vrf {G2}         $ G2*(LP2(vin)-1.05)  (0 if min-phase)
Grp3 vin np3 vin np3 {1/Rp3}
Cp3  np3 vrf {Cps}
Gs3  0   vout np3 vrf {G3}         $ G3*(LP3(vin)-1.05)  (0 if min-phase)
* ---- PSRR complex-conjugate 2nd-order section: carries non-min-phase / notch
*      PHASE that the real shelf cannot. Series Rpc-Lpc-Cpc lowpass state x=V(ncs2,vrf);
*      Gqb0 reads V_C=x, Gqb1 reads V_R=a1*dx/dt -> i_c += (pcb0+pcb1 s)/(1+a1 s+a2 s^2).
*      Inert when pcb0=pcb1=0 (min-phase variants). Rpc is a NOISELESS VCCS-conductance
*      (Grpc); Lpc/Cpc are noiseless -> the whole section adds no thermal noise. No laplace.
Grpc vin  ncs1 vin ncs1 {1/Rpc}    $ noiseless conductance (= 1/Rpc)
Lpc  ncs1 ncs2 {Lpc}
Cpc  ncs2 vrf  {Cpc}
Gqb0 0 vout ncs2 vrf {pcb0}        $ inject b0*x
Gqb1 0 vout vin  ncs1 {gqb1}       $ inject b1*dx/dt = (b1/a1)*V_R

.ends ldo_model

